US04082778
12.65 parts of 1-amino-5-methoxyanthraquinone, 15.3 parts of 1-bromo-2-chloro-4-nitrobenzene, 5 parts of sodium carbonate and 1 part of copper-(I) chloride in 120 parts of nitrobenzene are stirred for 3 hours at 170°. To remove the water formed during the reaction, a stream of nitrogen is passed through the apparatus during the reaction. After cooling the reaction mixture to 25°, the 1-(2'-chloro-4'-nitroanilino)-5-methoxyanthraquinone formed is filtered off, washed with nitrobenzene, ethanol and hot water and extracted by boiling with 5% strength hydrochloric acid. The colorant is obtained in a yield of 19.5 parts, that is to say 95% of theory. It bulk-dyes polyester in an orange-coloured shade having excellent fastness properties.

reactant | 1-amino-5-methoxyanthraquinone | NC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)OC)=O | C15H11NO3
reactant | 1-bromo-2-chloro-4-nitrobenzene | BrC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C6H3BrClNO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper-(I) chloride | [Cu]Cl
product | 1-(2'-chloro-4'-nitroanilino)-5-methoxyanthraquinone | ClC1=C(NC2=CC=CC=3C(C4=C(C=CC=C4C(C23)=O)OC)=O)C=CC(=C1)[N+](=O)[O-] | C21H13ClN2O5
